US07592358B2
30.1b. 1-[2-(4-bromo-2-chloromethylphenoxy)ethyl]pyrrolidine
0.16 mL (2.20 mmol) of thionyl chloride was added at −10° C. to a solution of 0.60 g (2.00 mmol) of [5-bromo-2-(2-pyrrolidin-1-ylethoxy)phenyl]methanol and 0.42 mL (3.00 mmol) of triethylamine in 30 mL of THF and the mixture was stirred for 16 hours at RT. Ice and dilute aqueous sodium bicarbonate solution was added to the reaction mixture and the phases were separated. The aqueous phase was exhaustively extracted with DCM, and the combined organic phases were washed with water, dried over magnesium sulfate, and evaporated down in vacuo. Yield: 0.39 g (62% of theoretical); C13H17BrClNO (M=318.637); calc.: molpeak (M+H)+: 318/320/322 (BrCl); found: molpeak (M+H)+: 318/320/322 (BrCl); HPLC-MS: 5.84 minutes (method A).

reactant | thionyl chloride | 2.20 mmol, 0.16 mL | S(=O)(Cl)Cl | Cl2OS
reactant | [5-bromo-2-(2-pyrrolidin-1-ylethoxy)phenyl]methanol | 2.00 mmol, 0.60 g | BrC=1C=CC(=C(C1)CO)OCCN1CCCC1 | C13H18BrNO2
reactant | triethylamine | 3.00 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-[2-(4-bromo-2-chloromethylphenoxy)ethyl]pyrrolidine | BrC1=CC(=C(OCCN2CCCC2)C=C1)CCl | C13H17BrClNO
